US05536701
5-Methoxy-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine, 1-oxide (Compound No. 55, 1.0 g, 0.00344 mole) and phosphorus oxychloride (0.6 g, 0.00391 mole) were refluxed under N2 in carbon tetrachloride (40 mL) for 18 hours. The mixture was then partitioned between water and ethyl acetate. The aqueous layer was extracted again with ethyl acetate and the combined organic layers were washed with saturated sodium bicarbonate, brine, filtered through silica gel with ethyl acetate and evaporated in vacuo. The crude solid was recrystallized from ethyl acetate/cyclohexane to give 3-chloro-4-methoxy-6-[[1-methyl-3-(trifluoromethyl)- 1H-pyrazol-5-yl]oxy]pyridazine (0.681 g, 64% yield) as an off-white solid.

reactant | 5-Methoxy-3-[[1-methyl-3-(trifluoromethyl)-1H-pyrazol-5-yl]oxy]pyridazine | COC=1C=C(N=NC1)OC1=CC(=NN1C)C(F)(F)F | C10H9F3N4O2
reactant | phosphorus oxychloride | 0.00391 mole, 0.6 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | carbon tetrachloride | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-chloro-4-methoxy-6-[[1-methyl-3-(trifluoromethyl)- 1H-pyrazol-5-yl]oxy]pyridazine | 0.681 g, 64% yield | ClC=1N=NC(=CC1OC)OC1=CC(=NN1C)C(F)(F)F | C10H8ClF3N4O2
